US07786155B2
Synthesis in analogy to Example 8 starting from enantiomerically pure 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one and 2-ethyl-butyryl chloride to yield (−)-2-ethyl-N-{4-[2-(2-methyl-5-oxo-4-phenyl-4-propyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-butyramide. LC/MS at 254 nm; [M+H] 448; Rt=3.313 min; optical rotation=−8.2°, c=1.0 in methanol.

reactant | 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(CCC)C1=CC=CC=C1)C)=O | C21H23N3O2
reactant | 2-ethyl-butyryl chloride | C(C)C(C(=O)Cl)CC | C6H11ClO
product | (−)-2-ethyl-N-{4-[2-(2-methyl-5-oxo-4-phenyl-4-propyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-butyramide | C(C)C(C(=O)NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(CCC)C1=CC=CC=C1)C)=O)CC | C27H33N3O3
